* source PRACTICA
X_U1         0 N01395 N02183 N02217 N01650 LM741
R_R1         N01563 N01395  1k TC=0,0 
R_R2         N01395 N01650  2.2k TC=0,0 
V_V3         N02217 0 DC -12  
V_V4         N02183 0 DC 12  
V_V5         N01563 0  AC 0
+SIN 0 250m 1k 0 0 0
X_U2         N02970 N03399 N03126 N03140 N02986 LM741
V_V6         N02970 0  
+SIN 0 250m 1k 0 0 0
R_R3         N03399 N02986  2.2k TC=0,0 
R_R4         0 N03399  1k TC=0,0 
V_V7         N03140 0 DC -15  
V_V8         N03126 0 DC 15  
X_U3         0 N04828 N06012 N06039 N05080 LM741
R_R5         N04828 N05080 10k
R_R6         N04842 N04828 1k
R_R7         N04978 N04828 1.5k
R_R8         N04874 N04828 590
R_R9         N04978 N04842 1k
R_R10         N04874 N04842 1k
R_R12         0 N04874 1k
V_15         N04978 0  
+SIN 0 250m 1k 0 0 0
V_V9         N06012 0 -15
V_V10         N06039 0 15
X_U4         N07118 N07064 N07470 N07497 N07181 LM741
R_R13         N07064 N07181 40k
R_R14         N07098 N07064 2k
R_R15         N07164 N07118 4k
V_V11         N07098 0  
+SIN 0 250m 1k 0 0 0
V_V12         N07164 0  
+SIN 0 250m 1k 0 0 0
R_R16         0 N07118 120k
V_V13         N07470 0 15
V_V14         N07497 0 -15
X_U5         N08583 N08512 N09383 N09410 N08649 LM741
R_R17         N08512 N08649 1k
R_R18         N08922 N08512 1k
R_R19         N08886 N08512 1k
R_R20         N08978 N08583 1k
R_R21         0 N08583 1k
V_V15         N08922 0  
+SIN 3 250m 1k 0 0 0
V_V16         N08886 0  
+SIN 2 250m 1k 0 0 0
V_V17         N08978 0  
+SIN 2 250m 1k 0 0 0
V_V18         N09383 0 15
V_V19         N09410 0 -15
X_U6         0 N09812 N10016 N10043 N09839 LM741
R_R22         N09812 N09839 100k
R_R23         N09769 N09812 1.2k
V_V20         N09769 0  
+SIN 0 250m 1k 0 0 0
V_V21         N10016 0 -15
V_V22         N10043 0 15
X_U7         N10606 N10453 N10818 N10791 N10491 LM741
R_R24         N10453 N10491 300k
R_R25         0 N10453 1.5k
V_V23         N10606 0  
+SIN 0 250m 1k 0 0 0
V_V24         N10791 0 -15
V_V25         N10818 0 15
X_U8         N11596 N11517 N11731 N11704 N11569 LM741
R_R26         N11517 N11569 1k
R_R27         0 N11517 800k
V_V26         N11596 0  
+SIN 0 250m 1k 0 0 0
V_V27         N11704 0 -15
V_V28         N11731 0 15
